US07700589B2
4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylic acid-[(R)-2-1,4′-bipiperidinyl-1′-yl-1-(3,4-diethyl-benzyl)-2-oxo-ethyl]-amide
Prepared analogously to Example 9i) from 400 mg (0.81 mmol) (R)-3-(3,4-diethyl-phenyl)-2-{[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carbonyl]-amino}-propionic acid and 170 mg (1.01 mmol) [1,4′]bipiperidinyl.

reactant | (R)-3-(3,4-diethyl-phenyl)-2-{[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carbonyl]-amino}-propionic acid | 0.81 mmol, 400 mg | C(C)C=1C=C(C=CC1CC)C[C@H](C(=O)O)NC(=O)N1CCC(CC1)N1C(NC2=C(CC1)C=CC=C2)=O | C28H36N4O4
reactant | [1,4′]bipiperidinyl | 1.01 mmol, 170 mg | N1(CCCCC1)C1CCNCC1 | C10H20N2
product | 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylic acid-[(R)-2-1,4′-bipiperidinyl-1′-yl-1-(3,4-diethyl-benzyl)-2-oxo-ethyl]-amide | N1(CCCCC1)C1CCN(CC1)C([C@@H](CC1=CC(=C(C=C1)CC)CC)NC(=O)N1CCC(CC1)N1C(NC2=C(CC1)C=CC=C2)=O)=O | C38H54N6O3
